US06605617B2
4-Amino-3-{5-[3-(dimethylamino)pyrrolidin-1-yl]-3H-imidazo[4,5-b]pyridin-2-yl}quinolin-2(1H)-one
LiHMDS (3.5 eq) was added to ethyl {5-[3-(dimethylamino)pyrrolidin-1-yl]-3H-imidazo[4,5-b]pyridin-2-yl}acetate (1.0 eq) in THF at −40° C. After 10 minutes, a solution of 2-aminobenzenecarbonitrile (1.1 eq) in THF was added. The resulting mixture was allowed to warm to room temperature, stirred for 1 h and then heated to 60° C. overnight. The mixture was cooled to room temperature and quenched with NH4Cl (aq, saturated). The aqueous phase was extracted with CH2Cl2 (5 times). The product crashes out of the organic solution during the extractions. Evaporation of the solvent under reduced pressure afforded a brown solid that was triturated repeatedly with MeOH and acetone to obtain a yellow greenish powder. LC/MS m/z 390.2 (MH+), Rf 1.48 minutes.

reactant | LiHMDS | 3.5 eq | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethyl {5-[3-(dimethylamino)pyrrolidin-1-yl]-3H-imidazo[4,5-b]pyridin-2-yl}acetate | 1.0 eq | CN(C1CN(CC1)C1=CC=C2C(=N1)NC(=N2)CC(=O)OCC)C | C16H23N5O2
reactant | 2-aminobenzenecarbonitrile | 1.1 eq | NC1=C(C=CC=C1)C#N | C7H6N2
solvent | THF | C1CCOC1 | C4H8O
product | 4-Amino-3-{5-[3-(dimethylamino)pyrrolidin-1-yl]-3H-imidazo[4,5-b]pyridin-2-yl}quinolin-2(1H)-one | NC1=C(C(NC2=CC=CC=C12)=O)C1=NC=2C(=NC(=CC2)N2CC(CC2)N(C)C)N1 | C21H23N7O
